US09023865B2
1-[3-(ethoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl]-3-[(1R)-1-phenylethyl]urea
To the solution of (R)-1-(3-(ethoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (130 mg, 0.223 mmol) and trifluoroacetic acid (0.856 ml, 11.17 mmol) in dichloromethane (2.0 ml) was added triethylsilane (39.0 mg, 0.335 mmol). The resulting mixture was allowed to stir at rt for 18 h. The reaction was concentrated in vacuo and submitted for reversed phase HPLC purification to provide the desired product (28.5 mg, 0.063 mmol, 28.1% yield). MS ESI calc'd. for C18H21N5O2 [M+H]+ 340, found 340.

reactant | (R)-1-(3-(ethoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.223 mmol, 130 mg | C(C)OCC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H35N5O2
reactant | trifluoroacetic acid | 11.17 mmol, 0.856 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.335 mmol, 39.0 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 1-[3-(ethoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl]-3-[(1R)-1-phenylethyl]urea | 0.063 mmol, 28.5 mg, 28.1% yield | C(C)OCC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C18H21N5O2
